US08236976B2
Preparation of (2-Bromo-phenyl)-(3-tert-butyl-oxiranyl)-methanol (17)
The product was prepared by General procedure T using 50 mg (0.28 mmol) Cy2BH, 35 μL (0.28 mmol) 3,3-dimethyl-1-butyne, 0.39 mL (0.78 mmol, 2.0 M in hexanes) Et2Zn, 2.4 mg (0.01 mmol) (−)-MIB, 29 μL (0.25 mmol) o-bromobenzaldehyde, 0.25 mL (0.25 mmol, 1.0 M in hexanes) Ti(OiPr)4, and 63 μL (0.30 mmol) (+)-DIPT. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound in 78% yield (55 mg, 0.19 mmol). threo-diastereomer: Colorless oil. [α]D20=−65.8 (c=0.40, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.90 (s, 9H), 2.55 (d, 1H, J=5.2 Hz), 3.08 (m, 2H), 5.00 (t, 1H, J=4.6 Hz), 7.18 (t, 1H, J=7.6 Hz), 7.37 (t, 1H, J=7.5 Hz), 7.55 (d, 1H, J=7.9 Hz), and 7.61 (d, 1H, J=7.3 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 25.7, 30.6, 58.2, 65.2, 71.7, 122.0, 127.88, 127.94, 129.4, 132.8, and 140.0 ppm; IR (neat): 3418, 3060, 2957, 2872, 2343, 1568, 1469, 1437, 1396, 1365, and 1190 cm−1; HRMS-CI m/z 267.0368 [(M−OH)+; calcd for C13H16BrO: 267.0385]. erythro-diastereomer: Colorless oil. [α]D20=−55.5 (c=0.53, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.84 (s, 9H), 2.42 (br d, 1H, J=2.1 Hz), 2.85 (br d, 1H, J=2.3 Hz), 3.29 (t, 1H, J=2.4 Hz), 5.40 (br s, 1H), 7.17 (t, 1H, J=7.4 Hz), 7.34 (t, 1H, J=7.4 Hz), 7.51 (d, 1H, J=7.7 Hz), and 7.54 (d, 1H, J=8.0 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 25.7, 30.3, 56.5, 62.3, 69.1, 122.1, 127.7, 127.9, 129.4, 132.6, and 138.9 ppm; IR (neat): 3426, 3060, 2958, 2861, 1631, 1590, 1586, 1467, 1439, 1390, and 1364 cm−1; HRMS-CI m/z 267.0368 [(M−. OH)+; calcd for C13H16BrO: 267.0385].

reactant | Cy2BH | 0.28 mmol, 50 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 3,3-dimethyl-1-butyne | 0.28 mmol, 35 μL | CC(C#C)(C)C | C6H10
reactant | Et2Zn | 0.78 mmol, 2.0 M, 0.39 mL | [Zn](CC)CC
reactant | o-bromobenzaldehyde | 0.25 mmol, 29 μL | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | (+)-DIPT | 0.30 mmol, 63 μL | CC(C)OC(=O)[C@@H]([C@H](C(=O)OC(C)C)O)O | C10H18O6
catalyst | Ti(OiPr)4 | 0.25 mmol, 1.0 M, 0.25 mL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | (2-Bromo-phenyl)-(3-tert-butyl-oxiranyl)-methanol | 78% yield | BrC1=C(C=CC=C1)C(O)C1OC1C(C)(C)C | C13H17BrO2
